US05739351
The procedure is as described for Example 14, starting from 0.73 g of (3aRS,4RS,6SR,7aSR)-6-hydroxymethyl-4-(2-fluorophenyl)perhydroisoindol-4-ol hydrochloride and 0.68 g of 2-(1-pyrrolidinyl)phenylacetic acid, and gives 0.2 g of (3aRS,4RS,6SR,7aSR)-6-hydroxymethyl-4-(2-fluorophenyl)-2-[2-(1-pyrrolidinyl)phenylacetyl]perhydroisoindol-4-ol in the form of a thick white foam.

reactant | (3aRS,4RS,6SR,7aSR)-6-hydroxymethyl-4-(2-fluorophenyl)perhydroisoindol-4-ol hydrochloride | 0.73 g | Cl.OCC1CC(C2CNCC2C1)(O)C1=C(C=CC=C1)F
reactant | 2-(1-pyrrolidinyl)phenylacetic acid | 0.68 g | N1(CCCC1)C1=C(C=CC=C1)CC(=O)O | C12H15NO2
product | (3aRS,4RS,6SR,7aSR)-6-hydroxymethyl-4-(2-fluorophenyl)-2-[2-(1-pyrrolidinyl)phenylacetyl]perhydroisoindol-4-ol | 0.2 g | OCC1CC(C2CN(CC2C1)C(CC1=C(C=CC=C1)N1CCCC1)=O)(O)C1=C(C=CC=C1)F | C27H33FN2O3
